US04545936
To a solution of 9-bromoacetyl-6,9-dihydroxy-5,7,8,9,10,12-hexahydronaphthacene-5,12-dione (780 mg) in acetone (64 ml) was added sodium acetate (1.6 g) and the mixture was allowed to react at room temperature for 65 hours. After removing insoluble matters by filtration, the most part of the solvent was distilled off under reduced pressure and subjected to filtration to give yellow crystals (560 mg, 76%) of 9-acetoxyacetyl6,9-dihydroxy-5,7,8,9,10,12-hexahydronaphthacene-5,12-dione. M.P., 203°-206° C.

reactant | 9-bromoacetyl-6,9-dihydroxy-5,7,8,9,10,12-hexahydronaphthacene-5,12-dione | 780 mg | BrCC(=O)C1(CCC=2C(=C3C(C=4C=CC=CC4C(C3=CC2C1)=O)=O)O)O | C20H15BrO5
reactant | sodium acetate | 1.6 g | C(C)(=O)[O-].[Na+]
solvent | acetone | 64 ml | CC(=O)C | C3H6O
product | 9-acetoxyacetyl6,9-dihydroxy-5,7,8,9,10,12-hexahydronaphthacene-5,12-dione | 560 mg, 76% | C(C)(=O)OCC(=O)C1(CCC=2C(=C3C(C=4C=CC=CC4C(C3=CC2C1)=O)=O)O)O | C22H18O7
